US09328111B2
To the solution of methyl 3-aminobenzoate (302 mg, 2.0 mmol) and methyl 2-oxocyclopentanecarboxylate (284 mg, 2.0 mmol) in MeOH (10 mL) were added MgSO4 (240 mg) and concentrated HCl (2 drops), the mixture was heated to 60° C. for 4.0 h. After cooling to room temperature, the solvent was evaporated in vacuum. The mixture was filtered and washed with EtOAc (15 mL), the solvent was evaporated and used for the next step without further purification. The crude mixture was dissolved in PPA (4.0 mL), and was stirred in 130° C. for 3 h. After cooling to the room temperature, water (20 mL) was added, and the mixture was extracted with EtOAc (50 mL×3). The organic layers were combined, dried over Na2SO4, and concentrated to afford the mixture, which was purified on Pre-HPLC to afford 9-oxo-2,3,4,9-tetrahydro-1H-cyclopenta[b]quinoline-8-carboxylic acid as a white solid. MS (ESI) m/e [M+1]+230.0

reactant | methyl 3-aminobenzoate | 2.0 mmol, 302 mg | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | methyl 2-oxocyclopentanecarboxylate | 2.0 mmol, 284 mg | O=C1C(CCC1)C(=O)OC | C7H10O3
reactant | MgSO4 | 240 mg | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | MeOH | 10 mL | CO | CH4O
catalyst | HCl | 2 drops | Cl | ClH
product | 9-oxo-2,3,4,9-tetrahydro-1H-cyclopenta[b]quinoline-8-carboxylic acid | O=C1C2=C(NC=3C=CC=C(C13)C(=O)O)CCC2 | C13H11NO3
